US06399643B1
k) (R)-2-Benzyloxycarbonylamino-2-phenylethyl 4-methylphenylsulfonate
53.9 g of (R)-2-benzyloxycarbonylamino-2-phenylethanol (198.7 mmol) were dissolved in a mixture of 500 ml of methylene chloride and 80.3 ml (993.5 mmol) of pyridine. 45.5 g (238.4 mmol) of tosyl chloride in 240 ml of methylene chloride were added at 0° C. with stirring and the mixture was stirred at room temperature for 7 hours. A further 11.36 g of tosyl chloride (59.61 mmol) were added. The mixture was stirred at 0° C. for 5 hours. The batch was then allowed to stand overnight at room temperature and concentrated in vacuo. The residue was taken up in ethyl acetate. The organic phase was washed three times with 10% strength aqueous citric acid solution and twice with water, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether, filtered off with suction, washed with diethyl ether and dried over phosphorus pentoxide. Yield: 60.9 g (72%). The mother liquor was concentrated, taken up in n-heptane/ethyl acetate (6/4) and chromatographed on silica gel to give an additional yield of 3.5 g (4.2%).

reactant | (R)-2-benzyloxycarbonylamino-2-phenylethanol | 198.7 mmol, 53.9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C1=CC=CC=C1 | C16H17NO3
reactant | pyridine | 993.5 mmol, 80.3 ml | N1=CC=CC=C1 | C5H5N
reactant | tosyl chloride | 238.4 mmol, 45.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | tosyl chloride | 59.61 mmol, 11.36 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-Benzyloxycarbonylamino-2-phenylethyl 4-methylphenylsulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C23H23NO5S
